US08293754B2
Using diethyl 5-amino-3-methylthiophene-2,4-dicarboxylate and benzyl N-(2-cyanoethyl)carbamate, the ring-closing reaction was carried out similarly to Production Example 1. Successively the hydrolysis was carried out similarly to Example 1, to provide 2-(2-benzyloxycarbonylaminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid.

reactant | diethyl 5-amino-3-methylthiophene-2,4-dicarboxylate | NC1=C(C(=C(S1)C(=O)OCC)C)C(=O)OCC | C11H15NO4S
reactant | benzyl N-(2-cyanoethyl)carbamate | C(#N)CCNC(OCC1=CC=CC=C1)=O | C11H12N2O2
product | 2-(2-benzyloxycarbonylaminoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NCCC=1NC(C2=C(N1)SC(=C2C)C(=O)O)=O | C18H17N3O5S
